US07067540B2
To a solution of isoquinolin-5-ylmethanol (0.63 g, 3.9 mmol) in AcOH (3.3 mL) was added HBr (6.6 mL, a 30% w/w solution in AcOH, 24 mmol), and the reaction mixture was stirred at 75° C. for 45 min. The reaction mixture was cooled to room temperature, and the precipitate was collected to provide the 5-bromomethylisoquinoline hydrobromide acid salt as a brown solid (1.1 g, 87%): 1H NMR (300 MHz, CDCl3) δ 9.22 (s, 1H), 8.58 (d, J=6 Hz, 1H), 7.95-7.89 (m, 2H), 7.76 (d, J=9 Hz, 1H), 7.59 (dd, J=9, 6 Hz, 1H), 5.16 (s, 2H).

reactant | isoquinolin-5-ylmethanol | 3.9 mmol, 0.63 g | C1=NC=CC2=C(C=CC=C12)CO | C10H9NO
reactant | HBr | Br | BrH
solvent | AcOH | 3.3 mL | CC(=O)O | C2H4O2
product | 5-bromomethylisoquinoline hydrobromide | Br.BrCC1=C2C=CN=CC2=CC=C1 | InChI=1S/C10H8BrN.BrH/c11-6-8-2-1-3-9-7-12-5-4-10(8)9;/h1-5,7H,6H2;1H
